US07741327B2
To a solution of (1-fluoro-cyclopentyl)-methanol (1.06 g, 8.97 mmol) and triethylamine (0.995 g, 9.83 mmol) in anhydrous dichloromethane (40 mL) at −30° C. was added trifluoromethanesulfonic anhydride (2.78 g, 9.87 mmol) over 30 min. The mixture was allowed to warm to 0° C. and stirred for 1.5 h. The resulting mixture was diluted with dichloromethane, poured into ice and neutralized with 1N aqueous hydrochloric acid. The mixture was separated and the organic phase washed with a 20% sodium carbonate solution, saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The resulting mixture was filtered and evaporated which afforded trifluoro-methanesulfonic acid 1-fluoro-cyclopentylmethyl ester (2 g, 89%) as a brown oil: 1H NMR (300 MHz, CDCl3) δ ppm 1.51-2.25 (m, 8H), 4.57 (d, J=19.6 Hz, 2H).

reactant | (1-fluoro-cyclopentyl)-methanol | 8.97 mmol, 1.06 g | FC1(CCCC1)CO | C6H11FO
reactant | triethylamine | 9.83 mmol, 0.995 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 9.87 mmol, 2.78 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 1-fluoro-cyclopentylmethyl ester | 2 g, 89% | FC1(CCCC1)COS(=O)(=O)C(F)(F)F | C7H10F4O3S
